US07473787B2
Thiophene-2-carboxylic acid [3-(4-tert-butyl-benzenesulfonyl)-3-aza-bicyclo[3.1.0]hex-6yl-methyl]-(3-fluoro-4-morpholin-4-yl-phenyl)-amide
To a stirring solution of thiophene-2-carboxylic acid (3-aza-bicyclo[3.1.0]hex-6-ylmethyl)-(3-fluoro-4-morpholin-4-yl-phenyl)-amide (60 mg, 0.15 mmol) in 3 mL of DCE was added DIEA (0.026 mL, 0.45 mmol), DMAP (cat.) and 4-tert-butylbenzene sulfonyl chloride (0.10 mL, 0.45 mmol). The resulting mixture was heated to 80° C. for 1.5 hours, cooled to room temperature and quenched with saturated NaHCO3. The layers were separated, the aqueous layer was extracted with CH2Cl2, and the combined organic layers were dried and concentrated. The resulting crude material was purified via flash chromatography with 40% EtOAc/hexanes. The product containing fractions were collected and concentrated to yield 70 mg of a white foam. 400 MHz 1H NMR (CDCl3) δ 7.62-7.66 (m, 2H), 7.47-7.50 (m, 2H), 7.29-7.31 (m, 1H), 6.79-6.95 (m, 5H), 3.87-3.89 (m, 4H), 3.68 (d, J=7.47 Hz, 2H), 3.46 (d, J=9.13 Hz, 2H), 3.13-3.15 (m, 4H), 2.94-2.96 (m, 2H), 1.64 (s, 2H), 1.31 (s, 9H), 1.12-1.14 (m, 1H); MS (M+1) 598.2.

reactant | thiophene-2-carboxylic acid (3-aza-bicyclo[3.1.0]hex-6-ylmethyl)-(3-fluoro-4-morpholin-4-yl-phenyl)-amide | 0.15 mmol, 60 mg | C12CNCC2C1CN(C(=O)C=1SC=CC1)C1=CC(=C(C=C1)N1CCOCC1)F | C21H24FN3O2S
reactant | DIEA | 0.45 mmol, 0.026 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-tert-butylbenzene sulfonyl chloride | 0.45 mmol, 0.10 mL | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | Thiophene-2-carboxylic acid [3-(4-tert-butyl-benzenesulfonyl)-3-aza-bicyclo[3.1.0]hex-6yl-methyl]-(3-fluoro-4-morpholin-4-yl-phenyl)-amide | 70 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N1CC2C(C2C1)CN(C(=O)C=1SC=CC1)C1=CC(=C(C=C1)N1CCOCC1)F | C31H36FN3O4S2
